US08076486B2
5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-4H-[1,2,4]triazole-3-carboxylic acid ethyl ester
Amino-{[3-(2-fluoro-4-iodo-phenylamino)-pyridine-4-carbonyl]-hydrazono}-acetic acid ethyl ester (1.6 g, 3.4 mmo) in pyridine (10 mL) was stirred at 140° C. for 3 hrs. Cooled, poured into water, Extracted with EtOAc, Combined the organic layer, and washed with Brine, dried over MgSO4, filtered, removed off solvent, got crude product, which was subjected to silica gel column (Hex:EtOAc=1:1). Collected final product 1.02 g. [5.23 min, 454 (M+1)]

reactant | Amino-{[3-(2-fluoro-4-iodo-phenylamino)-pyridine-4-carbonyl]-hydrazono}-acetic acid ethyl ester | 1.6 g | C(C)OC(C(=NNC(=O)C1=C(C=NC=C1)NC1=C(C=C(C=C1)I)F)N)=O | C16H15FIN5O3
reactant | water | O | H2O
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-4H-[1,2,4]triazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN=C(N1)C1=C(C=NC=C1)NC1=C(C=C(C=C1)I)F | C16H13FIN5O2
